US07030139B2
1-(Cyclopropylmethyl)-2-(4-ethoxybenzyl)-5-(1-pyrrolidinylcarbonyl)-1H-benzimidazole
Following the general procedure 20E, 1-(cyclopropylmethyl)-2-(4-ethoxybenzyl)-1H-benzimidazole-5-carboxylic acid (80 mg, 0.228 mmol) was dissolved in DMF (2 mL) and then HATU (104 mg, 0.274 mmol) was added followed by DIPEA (48 μL, 0.274 mmol), After being stirred for 10 min, pyrrolidine (0.456 mmol) was added and the resulting mixture was stirred overnight. The crude residue after work-up was purified by silica gel column chromatography to give pure product which was treated with 1 M HCl solution in diethyl ether to form a HCl salt as white solids (82 mg, 79%). 1H N (400 MHz, CD3OD): δ 7.85 (s, 1H), 7.59 (d, J=8.6 Hz, 1H), 7.48 (d, J=8.6 Hz, 1H), 7.18 (d, J=8.1 Hz, 2H), 6.87 (d, J=8.1 Hz, 2H), 4.32 (s, 2H), 4.07 (d, J=6.8 Hz, 2H), 4.00 (q, J=7.6 Hz, 2H), 3.64 (t, J=. 7.2 Hz, 2H), 3.53 (t, J=7.2 Hz, 2H), 2.06–1.96 (m, 2H), 1.96–1.85 (m, 2H), 1.36 (t, J=7.6 Hz, 3H), 1.10–1.04 (m, 1H), 0.52–0.46 (m, 2H), 0.34–0.28 (m, 2H). MS (ESI) (M+H)+=404. Anal. Calcd for C25H29N3O2.1.5HCl: C, 65.53; H, 6.71; N, 9.17. Found: C, 65.48; H, 6.77; N, 8.75.

reactant | 1-(cyclopropylmethyl)-2-(4-ethoxybenzyl)-1H-benzimidazole-5-carboxylic acid | 0.228 mmol, 80 mg | C1(CC1)CN1C(=NC2=C1C=CC(=C2)C(=O)O)CC2=CC=C(C=C2)OCC | C21H22N2O3
reactant | HATU | 0.274 mmol, 104 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.274 mmol, 48 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | pyrrolidine | 0.456 mmol | N1CCCC1 | C4H9N
reactant | HCl | 1 M | Cl | ClH
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(Cyclopropylmethyl)-2-(4-ethoxybenzyl)-5-(1-pyrrolidinylcarbonyl)-1H-benzimidazole | 82 mg, 79% | C1(CC1)CN1C(=NC2=C1C=CC(=C2)C(=O)N2CCCC2)CC2=CC=C(C=C2)OCC | C25H29N3O2
